US07534887B2
N-((2Z)-5-((4-(3-((6-Chloro-2-naphthyl)sulfonyl)propanoyl)-1-piperazinyl)carbonyl)-3,4-dimethyl-1,3-thiazol-2(3H)-ylidene)-N-methylamine
(2Z)-3,4-Dimethyl-2-methylimino-2,3-dihydro-1,3-thiazole-5-carboxylic acid (0.6 g) was dissolved in dichloromethane (30 mL), and triethylamine (0.14 mL) was added thereto. With ice cooling, 1-(3-((6-chloro-2-naphthyl)sulfonyl)propionyl)piperazine (1.0 g), HOBt (0.42 g) and WSC (0.57 g) were added thereto, and the mixture was mixed at room temperature for 16 hours. The reaction solution was basified with an aqueous potassium carbonate solution, then extracted with chloroform, and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified with a basic silica gel column to give the title compound (0.13 g) as a white powder.

reactant | (2Z)-3,4-Dimethyl-2-methylimino-2,3-dihydro-1,3-thiazole-5-carboxylic acid | 0.6 g | CN1/C(/SC(=C1C)C(=O)O)=N/C | C7H10N2O2S
reactant | 1-(3-((6-chloro-2-naphthyl)sulfonyl)propionyl)piperazine | 1.0 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)CCC(=O)N1CCNCC1 | C17H19ClN2O3S
reactant | HOBt | 0.42 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.57 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.14 mL | C(C)N(CC)CC | C6H15N
product | N-((2Z)-5-((4-(3-((6-Chloro-2-naphthyl)sulfonyl)propanoyl)-1-piperazinyl)carbonyl)-3,4-dimethyl-1,3-thiazol-2(3H)-ylidene)-N-methylamine | 0.13 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)CCC(=O)N1CCN(CC1)C(=O)C1=C(N(/C(/S1)=N/C)C)C | C24H27ClN4O4S2
